US06992087B2
Preparation of 3,6-diethyl-N-(2-ethyl-2,3-dihydro-1H-inden-1-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 2-ethylindan-1-amine and making non-critical variations provided the title compound as a yellow oil. MS (ESI+) for m/z 296.2 (M+H)+.

reactant | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
reactant | 2-ethylindan-1-amine | C(C)C1C(C2=CC=CC=C2C1)N | C11H15N
product | 3,6-diethyl-N-(2-ethyl-2,3-dihydro-1H-inden-1-yl)pyrazin-2-amine | C(C)C=1C(=NC(=CN1)CC)NC1C(CC2=CC=CC=C12)CC | C19H25N3
